US07491713B2
Step D: tert-Butyl (2S,6S)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate
Lithium hydroxide (63 mg, 1.49 mmol) was added to a solution of methyl N-(tert-butoxycarbonyl)-S-{2-[(cyclopropylmethyl)amino]-1-phenylethyl}-D-cysteinate (507 mg, 1.24 mmol) in tetrahydrofuran (10 mL) and water (2 mL). After 1 h, then mixture was concentrated and azeotroped with toluene (3×) to give the crude acid. Diphenylphosphoryl azide (0.53 ml, 2.48 mmol) was added to a solution of the crude acid and 4-methylmorpholine (0.20 mL, 1.86 mmol) in N,N-dimethylformamide (25 mL). After 4 h, the mixture was concentrated and water was added. The mixture was extracted with ethyl acetate, and the organic layer was washed with water (2×) and saturated brine, dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→20% ethyl acetate/hexanes) gave the title compound (149 mg). MS 377 (M+1).

reactant | Lithium hydroxide | 1.49 mmol, 63 mg | [OH-].[Li+]
reactant | methyl N-(tert-butoxycarbonyl)-S-{2-[(cyclopropylmethyl)amino]-1-phenylethyl}-D-cysteinate | 1.24 mmol, 507 mg | C(C)(C)(C)OC(=O)N[C@H](CSC(CNCC1CC1)C1=CC=CC=C1)C(=O)OC | C21H32N2O4S
reactant | Diphenylphosphoryl azide | 2.48 mmol, 0.53 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-methylmorpholine | 1.86 mmol, 0.20 mL | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (2S,6S)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate | 149 mg | C1(CC1)CN1C[C@@H](SC[C@H](C1=O)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C20H28N2O3S
